US04285984
Iodine is added portionwise to a mixture of 4 g of 3-dimethylaminopropylmercaptan in 60 ml of ether and 30 ml of 2-N sodium hydroxide solution until the solution is no longer decolorised each time (ca 4.2 g of iodine). After stirring for 1 hour, the ether phase is dried over magnesium sulphate, concentrated and fractionally distilled at 95°-100° C./0.025 mmHg. 2.7 g (68%) of 3-dimethylaminopropyl disulphide are obtained in the form of a clear colourless liquid.

reactant | Iodine | II | I2
reactant | 3-dimethylaminopropylmercaptan | 4 g | CN(CCCS)C | C5H13NS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | iodine | ca 4.2 g | II | I2
solvent | ether | 60 ml | CCOCC | C4H10O
product | 3-dimethylaminopropyl disulphide | 2.7 g, 68% | CN(CCCSSCCCN(C)C)C | C10H24N2S2
